US05215983
A solution of 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl) pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (0.70 g), 20% palladium hydroxide on carbon (0.4 g), 01 M phosphoric acid buffer (pH=6.0, 35 ml) and tetrahydrofuran (35 ml) was stirred for 5 hours under atmospheric pressure of hydrogen at ambient temperature. After the catalyst was filtered off, the filtrate was evaporated in vacuo to remove the organic solvent. The aqueous layer was washed twice with ethyl acetate (30 ml) and evaporated in vacuo to remove the organic solvent. The residue was chromatographed on a nonionic adsorption resin "Diaion HP-20" (20 ml) eluting in turn with water (60 ml) and 5% aqueous acetone [120 ml). The fractions containing the desired compound were collected and lyophilized to give (4R,5S,6S)-3-[(2S,4S)-2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidin-4-yl ]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid (0.29 g).

reactant | 4-nitrobenzyl (4R,5S,6S)-3-[(2S,4S)-2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-1-yl)methyl-1-(4-nitrobenzyloxycarbonyl) pyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 0.70 g | N1(CCN2N=CC=C21)C[C@H]2N(C[C@H](C2)SC2=C(N1C([C@@H]([C@H]1[C@H]2C)[C@@H](C)O)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-] | C35H37N7O10S
reactant | phosphoric acid | 35 ml, pH=6.0 | P(O)(O)(O)=O | H3O4P
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide on carbon | 0.4 g | [OH-].[OH-].[Pd+2]
solvent | tetrahydrofuran | 35 ml | O1CCCC1 | C4H8O
product | (4R,5S,6S)-3-[(2S,4S)-2-(2,3-dihydro-1H-imidazo[1,2-b]pyrazol-1-yl)methylpyrrolidin-4-yl ]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo [3.2.0]hept-2-ene-2-carboxylic acid | 0.29 g | N1(CCN2N=CC=C21)C[C@H]2NC[C@H](C2)SC2=C(N1C([C@@H]([C@H]1[C@H]2C)[C@@H](C)O)=O)C(=O)O | C20H27N5O4S
